US08207176B2
7a) 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one
To a solution of 3-iodo-4-methylaniline (110.0 mg, 0.47 mmol) in dioxane (1.0 mL) was added (under argon) triethylamine (0.26 mL, 1.86 mmol), palladium diacetate (5.2 mg, 0.023 mmol), 2-(dicyclophexyl phosphino) biphenyl (33.0 mg, 0.093 mmol), and pinacolborane (0.20 mL, 1.40 mmol). The mixture was stirred at about 80° C. for about 1 hour, cooled to room temperature (rt), and added with water (0.2 mL), barium hydroxide octahydrate (440.0 mg, 1.40 mmol) and 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (180.0 mg, 0.47 mmol). The mixture was heated at about 100° C. under stirring for about 1 hour, cooled to room temperature, filtered through celite, and diluted with brine (5.0 mL). The mixture was then extracted with CH2Cl2 (3×10 mL). The combined organic phases were dried over Na2SO4, filtered, and concentrated. Purification via the CombiFlash system then afforded the title compound (155.0 mg, 75%): LC-MS m/z 411 (M+H)+, 2.60 min (ret. time).

reactant | 3-iodo-4-methylaniline | 0.47 mmol, 110.0 mg | IC=1C=C(N)C=CC1C | C7H8IN
reactant | triethylamine | 1.86 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | biphenyl | 0.093 mmol, 33.0 mg | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | pinacolborane | 1.40 mmol, 0.20 mL | [B]1OC(C(O1)(C)C)(C)C | C6H12BO2
reactant | barium hydroxide octahydrate | 1.40 mmol, 440.0 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.47 mmol, 180.0 mg | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium diacetate | 0.023 mmol, 5.2 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | water | 0.2 mL | O | H2O
product | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 155.0 mg, 75% | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C21H16F2N4OS
